US04536518
(C) 1-(4-Methoxyphenyl)tetralin
1-(4-Methoxyphenyl)-3,4-dihydro-naphthalene (12 g., 0.051 mole) was added to a mixture of 10% Pd on carbon catalyst (1.0 g.) and ethanol (250 ml.) and hydrogenated for 4 hours at room temperature and 50 psi of H2. The reaction mixture was then filtered and evaporated under vacuum to an oil, which was used in the next step without further purification (11.2 g., 92.5% yield).

reactant | 1-(4-Methoxyphenyl)-3,4-dihydro-naphthalene | 0.051 mole, 12 g | COC1=CC=C(C=C1)C1=CCCC2=CC=CC=C12 | C17H16O
catalyst | Pd on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(4-Methoxyphenyl)tetralin | 92.5% yield | COC1=CC=C(C=C1)C1CCCC2=CC=CC=C12 | C17H18O
